US08071595B2
To a −78° C. stirred solution of trimethyl(2-methylbut-3-yn-2-yloxy)silane (0.49 g, 2.367 mmol) in dry THF (20 mL), n-BuLi (3.70 mL, 5.917 mmol, 1.6 M in hexane) was added dropwise over 10 minutes under an inert atmosphere. The reaction mixture was stirred for 30 min at −78° C., and then a solution of N-methoxy-N-methylbenzo[c][1,2,5]oxadiazole-5-carboxamide (0.557 g, 3.550 mmol) in dry THF (10 mL) was added to reaction mixture and stirring was continued for an additional 3 h at −78° C. The reaction mixture was quenched with a saturated NH4Cl solution and extracted with EtOAc (2×20 mL). The combined organic layers were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography eluting with 5% EtOAc in hexanes to afford 1-(benzo[c][1,2,5]oxadiazol-5-yl)-4-methyl-4-(trimethylsilyloxy)pent-2-yn-1-one (0.45 g, 63%) as a colorless oil.

reactant | trimethyl(2-methylbut-3-yn-2-yloxy)silane | 2.367 mmol, 0.49 g | C[Si](OC(C)(C#C)C)(C)C | C8H16OSi
reactant | n-BuLi | 5.917 mmol, 1.6 M, 3.70 mL | [Li]CCCC
reactant | N-methoxy-N-methylbenzo[c][1,2,5]oxadiazole-5-carboxamide | 3.550 mmol, 0.557 g | CON(C(=O)C1=CC=2C(=NON2)C=C1)C | C9H9N3O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(benzo[c][1,2,5]oxadiazol-5-yl)-4-methyl-4-(trimethylsilyloxy)pent-2-yn-1-one | 0.45 g, 63% | N=1ON=C2C1C=CC(=C2)C(C#CC(C)(O[Si](C)(C)C)C)=O | C15H18N2O3Si
